US05849769
Preparation of the intermediate, 2-Amino-5-ethynylpyridine.
2-Amino-5-bromopyridine (8.65 g, 50.0 mmole) and bis-trimethyl-silylacetamide (36.76 mL, 150.0 mmole) was stirred at 100° C. overnight. The mixture was purified by distillation to give 10.41 g (85%) of the protected amine. 2-Trimethylsilylamino-5-bromopyridine (4.90 g, 20.0 mmole), bis(triphenylphosphine)palladium(II) chloride (0.70 g, 1.00 mmole) and trimethylsilylacetylene (5.65mL, 40.0 mmole) in piperidine (2 mL) was stirred under nitrogen at 80° C. overnight. Diethyl ether and NH4Cl (aq) was added to the mixture and the organic phase was separated, dried over Na2SO4 and evaporated. Tetrabutylammonium chloride (50.0 mL, 100.0 mmole) and THF (250 mL) was added to remove the protection groups and the mixture was stirred overnight. THF was evaporated. The residue was purified by silica gel column chromatography (EtOAc/Hexane, 40:60) to give 2.36 g, (6%) of the titled compound. 1 H NMR (250 MHz, CDCl3) δ 3.05 (s, 1H), 4.65 (br s, 2H), 6.45 (d, 1H), 7.50 (dd, 1H), 8.25 (d, 1H).

reactant | 2-Trimethylsilylamino-5-bromopyridine | 20.0 mmole, 4.90 g | C[Si](C)(C)NC1=NC=C(C=C1)Br | C8H13BrN2Si
reactant | trimethylsilylacetylene | 40.0 mmole, 5.65mL | C[Si](C)(C)C#C | C5H10Si
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | Tetrabutylammonium chloride | 100.0 mmole, 50.0 mL | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.00 mmole, 0.70 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-Amino-5-ethynylpyridine | 6% | NC1=NC=C(C=C1)C#C | C7H6N2
